US04012499
Preparation of 7-methyl-3-(5-tetrazolyl)thioxanthone-10, 10-dioxide
3-Cyano-7-methylthioxanthone-10,10-dioxide (0.36 g), sodium azide (0.091 g), ammonium chloride (0.081 g) and dimethyl formamide (5.0 ml) were heated together on the steam bath for 7 hrs., poured on to ice and hydrochloric acid, and the precipitated tetrazole filtered off, washed with water and recrystallised from acetic acid, m.p. 267° C (decomposes).

reactant | 3-Cyano-7-methylthioxanthone-10,10-dioxide | 0.36 g | C(#N)C=1C=CC=2C(C3=CC(=CC=C3S(C2C1)(=O)=O)C)=O | C15H9NO3S
reactant | sodium azide | 0.091 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.081 g | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl formamide | 5.0 ml | CN(C=O)C | C3H7NO
product | 7-methyl-3-(5-tetrazolyl)thioxanthone-10, 10-dioxide | CC1=CC=C2S(C=3C=C(C=CC3C(C2=C1)=O)C1=NN=NN1)(=O)=O | C15H10N4O3S
